US04101667
1.0g of 9-cyano-3 -fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone and 1.0g of sodium hydroxide were added to 15ml of diethylene glycol and the resulting mixture was heated with stirring at 190°-200° C for 5 hours. After cooling, water was added to the mixture, which was washed with benzene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was chromatographed over silica gel and eluted with benzene-ethyl acetate (3:2), and there was obtained crude product. Recrystallization from ethanol-water afforded 180mg of 9-carboxy-3-hydroxy-10,11-dihydrodibenzo[b,f]thiepin having a melting point of 219°-221° C.

reactant | 9-cyano-3 -fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone | 1.0g | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=C(C=C1)F)=NN | C15H10FN3S
reactant | sodium hydroxide | 1.0g | [OH-].[Na+]
reactant | diethylene glycol | 15ml | C(COCCO)O | C4H10O3
reactant | water | O | H2O
product | 9-carboxy-3-hydroxy-10,11-dihydrodibenzo[b,f]thiepin | 180mg | C(=O)(O)C1=CC=CC2=C1CCC1=C(S2)C=C(C=C1)O | C15H12O3S
